US07714009B2
4-Amino-3-methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one
To a nitrogen inerted slurry of 2.24 g (11.5 mmol) of 3-methyl-4-nitro-1,3-dihydroimidazo[4,5-c]pyridin-2-one in 25 mL of methanol was added 0.5 mL of Raney nickel (50% slurry in water). The reaction slurry was purged with hydrogen and then stirred under balloon pressure hydrogen for 1 h. To the reaction slurry was added 20 mL of methanol and the reaction slurry was purged with hydrogen and then stirred under balloon pressure hydrogen for 2 h.

reactant | 3-methyl-4-nitro-1,3-dihydroimidazo[4,5-c]pyridin-2-one | 11.5 mmol, 2.24 g | CN1C(NC2=C1C(=NC=C2)[N+](=O)[O-])=O | C7H6N4O3
solvent | methanol | 25 mL | CO | CH4O
catalyst | Raney nickel | 0.5 mL | [Ni] | Ni
product | 4-Amino-3-methyl-1,3-dihydroimidazo[4,5-c]pyridin-2-one | NC1=NC=CC2=C1N(C(N2)=O)C | C7H8N4O
